US06482852B2
(a) 2-Cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene
To a mixture of 6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol (Helvetica Chimica Acta 1947, 1883.) (9.9 g, 61.0 mmol) and Cs2CO3 (26.3 g, 73.2 mmol) in DMF (100 ML) was added (bromomethyl)cyclohexane (10.2 mL, 73.2 mmol). The mixture was heated to 60° C. for 18 h, dumped into water and extracted with ethyl acetate. The combined extracts were washed with water, dried over magnesium sulfate and concentrated to a solid. The solid was recrystallized from ethanol (13.0 g, 83%). m.p. 62-63° C.

reactant | 6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 61.0 mmol, 9.9 g | C1=C(C=CC2=C1CCCCC2)O | C11H14O
reactant | Cs2CO3 | 73.2 mmol, 26.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (bromomethyl)cyclohexane | 73.2 mmol, 10.2 mL | BrCC1CCCCC1 | C7H13Br
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene | C1(CCCCC1)COC=1C=CC2=C(CCCCC2)C1 | C18H26O
